US08067408B2
5-(Aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine
Palladium on charcoal (10%, 50% w/w water, 8 g) was treated with ethanol (200 mL) followed by a solution of 5-(azidomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine (39.94 g, 121 mmol) in ethanol (1200 mL). The mixture was stirred under an atmosphere of hydrogen for 16 h. The catalyst was then removed by filtration and the filtrate removed of solvent in vacuo to reveal 41.24 g of a black oil. The product was purified by flash chromatography on 1 kg of silica using a step gradient from 5-20% methanol in dichloromethane to afford 32.66 g of the title compound. LC-MS m/z 304 (M+H)+, 1.71 min (ret time).

reactant | 5-(azidomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 121 mmol, 39.94 g | N(=[N+]=[N-])CC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H23N7O
catalyst | Palladium on charcoal | 8 g | [Pd] | Pd
solvent | ethanol | 1200 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-(Aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 32.66 g | NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H25N5O
